US08466141B2
17.4 g (0.10M) of 2-hydroxy-1,4-naphthoquinone was dissolved in 120 ml of DMSO, and 0.88 g (0.11M) of LiH was gradually added thereto. Here, this should be done with care because hydrogen evolves. The reaction solution was stirred, and after confirming no further production of hydrogen, was additionally stirred for another 30 min. Then, 19.7 g (0.10M) of cinnamyl bromide (3-phenylallyl bromide) and 3.35 g (0.025M) of LiI were gradually added thereto. The reaction solution was heated to 45° C. and then stirred vigorously for 12 hours at that temperature. The reaction solution was cooled below 10° C., and 80 g of ice was first added and 250 ml of water was then added. Thereafter, 25 ml of concentrated HCl was gradually added to maintain the resulting solution at an acidic pH>1.200 ml of CH2Cl2 was added to dissolve the reaction mixture which was then shaken vigorously to separate two layers. The aqueous layer was discarded, and a CH2Cl2 layer was treated with an aqueous 2N NaOH solution (100 ml×2) to separate the aqueous layer twice. At this time, the remaining CH2Cl2 layer after extraction with an aqueous 2N NaOH solution was used again in Example 8. The thus-separated aqueous solutions were combined and adjusted to an acidic pH>2 using concentrated HCl, thereby forming solids. The resulting solids were filtered and separated to give a Lapachol derivative. The thus-obtained Lapachol derivative was recrystallized from 75% EtOH. The resulting Lapachol derivative was mixed with 50 ml of sulfuric acid, and the mixture was vigorously stirred at room temperature for 10 min and 150 g of ice was added thereto to complete the reaction. 60 ml of CH2Cl2 was added to the reaction materials which were then shaken vigorously. Thereafter, a CH2Cl2 layer was separated and washed with 5% NaHCO3. An aqueous layer was extracted once again using 30 ml of CH2Cl2, washed with 5% NaHCO3 and combined with the previously extracted organic layer. The organic layer was concentrated and purified by chromatography on silica gel to give 2.31 g of pure Compound 7.

reactant | 2-hydroxy-1,4-naphthoquinone | 0.10M, 17.4 g | OC=1C(C2=CC=CC=C2C(C1)=O)=O | C10H6O3
reactant | LiH | 0.11M, 0.88 g | [H-].[Li+]
reactant | hydrogen | [H][H] | H2
reactant | cinnamyl bromide | 0.10M, 19.7 g | C(C=CC1=CC=CC=C1)Br | C9H9Br
reactant | LiI | 0.025M, 3.35 g | [Li+].[I-]
reactant | HCl | 25 ml | Cl | ClH
solvent | DMSO | 120 ml | CS(=O)C | C2H6OS
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | water | 250 ml | O | H2O
product | Lapachol | CC(=CCC1=C(C(=O)C=2C=CC=CC2C1=O)O)C | C15H14O3
